US08283353B2
4′-{[4-(4-hydroxy-4-prop-2-en-1-ylcyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile
4′-{[5-oxo-4-(4-oxocyclohexyl)-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (0.8 g) was dissolved in tetrahydrofuran (10 mL), and allylmagnesium bromide (1.0 M diethyl ether solution, 2.1 mL) was added at −78° C. The reaction mixture was warmed to room temperature, and the mixture was stirred for 16 hr. Saturated aqueous ammonium chloride solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The obtained ethyl acetate layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.26 g, 30%).

reactant | 4′-{[5-oxo-4-(4-oxocyclohexyl)-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.8 g | O=C1N(C=2N(C(=C1CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)C2CCC(CC2)=O | C28H27N5O2
reactant | allylmagnesium bromide | 1.0 M, 2.1 mL | C(C=C)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 4′-{[4-(4-hydroxy-4-prop-2-en-1-ylcyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.26 g, 30% | OC1(CCC(CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)CC=C | C31H33N5O2
